US09376418B2
A mixture of N-[3-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-4-(trifluoromethyl)pyrimidin-2-amine (8.00 g, 21.1 mmol), PdCl2(dppf)-dichloromethane adduct (0.861 g, 1.06 mmol), 2-methyl-THF (70.0 mL), 2 M sodium carbonate (21.1 mL, 42.2 mmol), and 4-bromo-2-fluoro pyridine (2.40 mL, 23.2 mmol) was heated to 86° C. for 6 hours under an argon atmosphere. The reaction mixture was directly subjected to an extraction where the aqueous and organic layers were separated. The aqueous layer was extracted with ethyl acetate (50 mL). The combined organic layers were washed sequentially with saturated sodium bicarbonate (40 mL) and saturated aqueous sodium chloride (40 mL). The organic layer was dried over sodium sulfate, filtered and concentrated under reduced pressure. The crude residue was triturated with a mixture of ethyl acetate (15 mL), dichloromethane (5 mL), and methanol (2 mL) to afford N-[3-(2-fluoropyridin-4-yl)-5-methylphenyl]-4-(trifluoromethyl)pyrimidin-2-amine as an off-white solid. MS APCI calc'd for C17H13F4N4 [M+H]+ 349. found 349. 1H NMR (500 MHz, DMSO-d6) δ 10.31 (s, 1H), 8.84 (d, J=4.9 Hz, 1H), 8.30 (d, J=5.3 Hz, 1H), 8.09 (s, 1H), 7.61 (d, J=6.2 Hz, 2H), 7.39 (s, 1H), 7.34 (s, 1H), 7.29 (d, J=4.9 Hz, 1H), 2.36 (s, 3H).

reactant | N-[3-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-4-(trifluoromethyl)pyrimidin-2-amine | 21.1 mmol, 8.00 g | CC=1C=C(C=C(C1)B1OC(C(O1)(C)C)(C)C)NC1=NC=CC(=N1)C(F)(F)F | C18H21BF3N3O2
reactant | sodium carbonate | 42.2 mmol, 2 M, 21.1 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-bromo-2-fluoro pyridine | 23.2 mmol, 2.40 mL | BrC1=CC(=NC=C1)F | C5H3BrFN
catalyst | PdCl2(dppf) dichloromethane | 1.06 mmol, 0.861 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].ClCCl
product | N-[3-(2-fluoropyridin-4-yl)-5-methylphenyl]-4-(trifluoromethyl)pyrimidin-2-amine | FC1=NC=CC(=C1)C=1C=C(C=C(C1)C)NC1=NC=CC(=N1)C(F)(F)F | C17H12F4N4
